US05753654
Ethyl 3-benzylamino-3-[4-(p-fluorobenzyl)-1-piperazinyl]-2-cyanoacrylate
To ethyl 3-benzylamino-3-methylthio-2-cyanoacrylate (1.50 g, 5.43 mmol) and 1-(p-fluorobenzyl)piperazine (2.11 g, 10.9 mmol) was added acetonitrile (1 ml) and the mixture was heated under reflux at 80° C. for 2 hours. The reaction product was purified by silica gel column chromatography to give the title compound as a brown oily substance (0.48 g) from the fraction from hexane-ethyl acetate (1/1). Yield=21%.

reactant | ethyl 3-benzylamino-3-methylthio-2-cyanoacrylate | 5.43 mmol, 1.50 g | C(C1=CC=CC=C1)NC(=C(C(=O)OCC)C#N)SC | C14H16N2O2S
reactant | 1-(p-fluorobenzyl)piperazine | 10.9 mmol, 2.11 g | FC1=CC=C(CN2CCNCC2)C=C1 | C11H15FN2
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | Ethyl 3-benzylamino-3-[4-(p-fluorobenzyl)-1-piperazinyl]-2-cyanoacrylate | Yield=21% | C(C1=CC=CC=C1)NC(=C(C(=O)OCC)C#N)N1CCN(CC1)CC1=CC=C(C=C1)F | C24H27FN4O2
